US05290776
Sodium hydride (86 mg of a 50% dispersion in oil) was added to a stirred solution of 7-amino-5-[3,5-difluorophenyl]-2-(2-furyl)-1,2,4-triazolo[1,5-a][1,3,5]triazine (0.421 g) in dimethylformamide (5 ml). The mixture was stirred until the effervesence had ceased and a clear solution was obtained. Iodomethane (0.256 g, 0.11 ml) was then added and the reaction mixture was stirred at ambient temperature for 2 hours. Water (25 ml) and glacial acetic (0.5 ml) were then added and the resulting aqueous suspension was extracted with ethyl acetate (3×50 ml). The organic extracts were combined and washed with water (2×25 ml) and brine (25 ml), dried (MgSO4) and evaporated to give a yellow solid. This was purified by chromatography on silica. Elution with toluene containing ethyl acetate (10% v/v) gave 5-[3,5-difluorophenyl]-2-(2-furyl)-7-methylamino-[1,2,4]triazolo[1,5-a][1,3,5]triazine as a white solid m.p. 231°-4° C. microanalysis, found: C, 55.0; H, 3.1; N, 25.5% C15H10F2N6O requires C15H10F2N6O C, 54.9; H, 3.1; N, 25.6%; NMR 3.16 (s, 3H, CH3N), 6.73 (d of d, 1H, furyl-4H), 7.21 (d of d, 1H, furyl-3H), 7.47 (t of t, 1H, phenyl-4H), 7.93 (d, 1H, furyl-5H), 7.97-8.05 (complex, 2H, phenyl-2H and phenyl-6H) and 9.31 (s, 1H, NH); m/e 329 (M+H)+.

reactant | Sodium hydride | [H-].[Na+]
reactant | 7-amino-5-[3,5-difluorophenyl]-2-(2-furyl)-1,2,4-triazolo[1,5-a][1,3,5]triazine | 0.421 g | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)C2=CC(=CC(=C2)F)F | C14H8F2N6O
reactant | Iodomethane | 0.11 ml, 0.256 g | IC | CH3I
reactant | acetic | 0.5 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | Water | 25 ml | O | H2O
product | 5-[3,5-difluorophenyl]-2-(2-furyl)-7-methylamino-[1,2,4]triazolo[1,5-a][1,3,5]triazine | FC=1C=C(C=C(C1)F)C1=NC=2N(C(=N1)NC)N=C(N2)C=2OC=CC2 | C15H10F2N6O
